US08476450B2
Synthesis of diethyl 4-(hydroxymethyl)phenyl phosphate
The solution of HCl (8 ml) in ethanol (100 ml) was added to diethyl 4-(TBDMS-oxymethyl)phenyl phosphate. The resultant solution was stirred for 20 minutes and neutralized with sodium bicarbonate. The mixture was extracted three times with ether and the combined organic layer was dried over magnesium sulfate. After removal of solvent, the compound was obtained in a yield of 98%. Without further purification, it was directly used in next step.

reactant | HCl | 8 ml | Cl | ClH
reactant | diethyl 4-(TBDMS-oxymethyl)phenyl phosphate | P(=O)(OCC)(OCC)OC1=CC=C(C=C1)CO[Si](C)(C)C(C)(C)C | C17H31O5PSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | diethyl 4-(hydroxymethyl)phenyl phosphate | yield of 98% | P(=O)(OCC)(OCC)OC1=CC=C(C=C1)CO | C11H17O5P
